US07053082B1
(±)-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4.5-h][2.3]benzodiazepine
1.69 g (10.0 millimoles) of 8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine are dissolved in a mixture of 75 ml of dichloro methane, 5 ml of methanol and 3 ml of glacial acetic acid. To the reaction mixture 0.38 g (10.0 millimoles) of sodium borohydride are added under cooling with ice-cold water in small portions. The reaction mixture is stirred at this temperature for an hour, then washed twice with 20 ml of water and 20 ml of saturated sodium chloride solution each, washed over magnesium sulfate and evaporated in vacuo. The crude product obtained is recrystallized from 50 ml of acetonitrile each. Thus 1.20 g of the desired compound are obtained, yield 71%, mp.: 124–127° C.

reactant | 8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine | 10.0 millimoles, 1.69 g | CC1=NN=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C18H15N3O4
reactant | sodium borohydride | 10.0 millimoles, 0.38 g | [BH4-].[Na+]
solvent | dichloro methane | 75 ml | ClCCl | CH2Cl2
solvent | methanol | 5 ml | CO | CH4O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | (±)-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4.5-h][2.3]benzodiazepine | 1.20 g, yield 71% | CC1NN=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C18H17N3O4
